US05629321
A mixture of 7.4 g of 7-methoxyisoquinoline and 30 g of pyridine hydrochloride was heated with stirring at 180° for 6 hours. The reaction mixture was allowed to cool, dissolved in ethyl acetate, and washed with a saturated aqueous sodium chloride solution. The solution was dried with anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to give 4.43 g of 7-hydroxyisoquinoline. The compound thus obtained was dissolved in 100 ml of methylene chloride, 5.5 ml of pyridine was added and then 6.6 ml of trifluoromethanesulfonic anhydride was dropwise added. The mixture was stirred for an hour with ice cooling. After reaction, a saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture and extracted with chloroform. The chloroform layer was dried with anhydrous magnesium sulfate and the solution was concentrated under reduced pressure. The crude product thus obtained was purified by silica gel column chromatography using a mixture, ethyl acetate:n-hexane=1:3, as a developer to give 9.18 g of trifluoromethanesulfonic acid-7-isoquinolinyl.

reactant | 7-methoxyisoquinoline | 7.4 g | COC1=CC=C2C=CN=CC2=C1 | C10H9NO
reactant | pyridine hydrochloride | 30 g | Cl.N1=CC=CC=C1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-hydroxyisoquinoline | 4.43 g | OC1=CC=C2C=CN=CC2=C1 | C9H7NO
